US06358945B1
To a solution of 2-chloro-3-nitro-5-tert-butyl pyridine (30 mg, 0.14 mmol) in anhydrous MeOH (1.5 mL) under nitrogen was added a solution of sodium methoxide (1.57 g sodium in 40 mL anhydrous MeOH) (85 uL, 0.14 mmol). The reaction was heated in a sealed tube in an oil bath set at 80-90° C. overnight. The volatiles were removed in vacuo, the residue taken up in EtOAc (15 mL), washed with water (10 mL), brine (10 mL), dried (magnesium sulfate), filtered and evaporated to dryness. Flash chromatography of the residue on silica gel (10% EtOAc in hexanes) gave the desired 2-methoxy-3-nitro-5-tert-butyl pyridine as a glassy yellow solid (12 mg, 0.057 mmol, 41%).

reactant | 2-chloro-3-nitro-5-tert-butyl pyridine | 0.14 mmol, 30 mg | ClC1=NC=C(C=C1[N+](=O)[O-])C(C)(C)C | C9H11ClN2O2
reactant | sodium methoxide | 0.14 mmol, 40 mL, 1.57 g | C[O-].[Na+]
solvent | MeOH | 1.5 mL | CO | CH4O
product | 2-methoxy-3-nitro-5-tert-butyl pyridine | 0.057 mmol, 12 mg, 41% | COC1=NC=C(C=C1[N+](=O)[O-])C(C)(C)C | C10H14N2O3
